US07786165B2
methyl 3-{4-[[(2′,6′-dimethylbiphenyl-3-yl)methyl](propyl)amino]phenyl}propanoate
To a solution of methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate (0.747 g, 2.00 mmol) and 1-iodopropane (0.585 mL, 6.00 mmol) in N,N-dimethylformamide (3 mL) was added potassium carbonate (0.415 g, 3.00 mmol), and the mixture was stirred under a nitrogen atmosphere at 90° C. for 8 hr. After cooling, the reaction mixture was concentrated under reduced pressure. Water was added to the obtained residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-20% ethyl acetate/hexane) to give the title compound (0.740 g, yield 89%) as a yellow oil.

reactant | methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate | 2.00 mmol, 0.747 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CCC(=O)OC | C25H27NO2
reactant | 1-iodopropane | 6.00 mmol, 0.585 mL | ICCC | C3H7I
reactant | potassium carbonate | 3.00 mmol, 0.415 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | methyl 3-{4-[[(2′,6′-dimethylbiphenyl-3-yl)methyl](propyl)amino]phenyl}propanoate | 0.740 g, yield 89% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CN(C1=CC=C(C=C1)CCC(=O)OC)CCC | C28H33NO2
